US05663200
12c) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-cyclohexyl-2(R)-[(p-methoxyphenyl)methyl]hexanoic acid
1000 ml of 1M aqueous LiOH solution are added, under a protective gas, to a solution of 103 g (239 mmol) of 5(S)-[1(S)-(Boc-amino)-2-cyclohexylethyl]-3(R)-[(p-methoxyphenyl)methyl]dihydrofuran-2-(3H)-one in 800 ml 1,2-dimethoxyethane. After 3 h at RT, the reaction solution is poured onto an ice-cold mixture of 1.5 l of sat. NH4Cl solution, 1 l of 10% citric acid solution and 2 l of ether. The aqueous phase is separated off and extracted 2× with 1 l of ether on each occasion. The organic phases are washed 4× with ice-water and finally with saline. Drying with sodium sulfate and evaporating yields the title compound from the organic phases: tRet (II)=16.0 min; FAB-MS (M+H)+ =450.

reactant | LiOH | 1M, 1000 ml | [Li+].[OH-]
reactant | 5(S)-[1(S)-(Boc-amino)-2-cyclohexylethyl]-3(R)-[(p-methoxyphenyl)methyl]dihydrofuran-2-(3H)-one | 239 mmol, 103 g | C(=O)(OC(C)(C)C)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)CC1=CC=C(C=C1)OC | C25H37NO5
reactant | NH4Cl | 1.5 l | [NH4+].[Cl-]
reactant | citric acid | 1 l | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | 1,2-dimethoxyethane | 800 ml | COCCOC | C4H10O2
solvent | ether | 2 l | CCOCC | C4H10O
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-cyclohexyl-2(R)-[(p-methoxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OC)O)CC1CCCCC1 | C25H39NO6
